US08664225B2
11.9 gram of 1-[2-(2,4-Dimethylphenylsulfanyl)-phenyl]piperazine oil was dissolved in 100 ml ethanol using heating. When a homogenous solution was obtained addition of 3.5 ml conc. HCl (aq) took place causing the immediately precipitation of a white solid. The suspension was stirred for 5 minutes at first and then on ice-bath another hour before filtration. The white solid was washed using 100 ml of fresh cool ethanol (placed in freezer at −18° C. for 2 hours), 50 ml acetone and finally 50 ml diethyl ether before dried in vacuum (50° C.) overnight. 1-[2-(2,4-Dimethylphenylsulfanyl)-phenyl]piperazine HCl was isolated in 5.1 gram (38%).

reactant | 1-[2-(2,4-Dimethylphenylsulfanyl)-phenyl]piperazine | 11.9 gram | CC1=C(C=CC(=C1)C)SC1=C(C=CC=C1)N1CCNCC1 | C18H22N2S
reactant | HCl | 3.5 ml | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[2-(2,4-Dimethylphenylsulfanyl)-phenyl]piperazine HCl | Cl.CC1=C(C=CC(=C1)C)SC1=C(C=CC=C1)N1CCNCC1 | InChI=1S/C18H22N2S.ClH/c1-14-7-8-17(15(2)13-14)21-18-6-4-3-5-16(18)20-11-9-19-10-12-20;/h3-8,13,19H,9-12H2,1-2H3;1H
